US06987116B2
N-methylpiperazine (177 μL, 1.6 mmol) is added to a suspension of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(4-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile (560 mg, 1.23 mmol) in 12 mL of dichloromethane and 3 mL of N,N-dimethylformamide. The reaction mixture is cooled to 0° C. and sodium triacetoxyborohydride (1.3 g, 6.13 mmol) is added. After stirring at 0° C. for 10 minutes, 3 drops of acetic acid are added and the reaction mixture is allowed to warm to room temperature and stirred for 5.5 hours. The reaction is quenched by the addition of water and then partitioned between saturated aqueous sodium bicarbonate and dichloromethane. The organic layer is washed with water, dried over sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with 5% methanol in dichloromethane. The fractions containing product are combined and concentrated in vacuo. The residue is washed with diethyl ether to provide 215 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[4-(4-methylpiperazin-1-ylmethyl)phenyl]thieno[3,2-b]pyridine-6-carbonitrile as white crystals, mp 226-228° C.; 1H NMR (DMSO-d6) δ 2.17 (s, 3H), 2.37 (br s, 8H), 3.49 (s, 2H), 3.85 (s, 3H), 7.37 (s, 1H), 7.40 (d, J=8 Hz, 2H), 7.67 (d, J=8 Hz, 2H), 7.76 (s, 1H), 7.89 (s, 1H), 8.60 (s, 1H), 9.73 (s, 1H); MS 538.2 (M+H)+.

reactant | N-methylpiperazine | 1.6 mmol, 177 μL | CN1CCNCC1 | C5H12N2
reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(4-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile | 1.23 mmol, 560 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C2=CC=C(C=C2)C=O | C22H13Cl2N3O2S
reactant | sodium triacetoxyborohydride | 6.13 mmol, 1.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[4-(4-methylpiperazin-1-ylmethyl)phenyl]thieno[3,2-b]pyridine-6-carbonitrile | 215 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C2=CC=C(C=C2)CN2CCN(CC2)C | C27H25Cl2N5OS
